### PR TITLE
Computational errors

### PR DESCRIPTION
**Pull request by Soupstraw**
# Description

This PR changes the output type of `computeProof` to `ComputationResult` which can return an error value if the computation fails.

# Checklist

- [x] Commit sequence broadly makes sense and commits have useful messages
- [ ] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [ ] Self-reviewed the diff

### CODE REVIEW

**Comment by WhatisRT** [comment]
There's a missing `Generic` instance: https://github.com/input-output-hk/formal-ledger-specifications/actions/runs/7194392950/job/19594830383?pr=328#step:5:9062

I've seen the nix errors on some other PRs as well, I assume something with hydra changed/broke.

File: src/Interface/ComputationalRelation.agda [hunk 1]
```diff
@@ -5,68 +5,130 @@ module Interface.ComputationalRelation where
...
+  map-failure : ∀ {A B C : Set} {f : A → B} {x : C} {ma} → ma ≡ failure x → map f ma ≡ failure x
+  map-failure refl = refl
+
+  success-maybe : ∀ {Err R : Set} → ComputationResult Err R → Maybe R
+  success-maybe (success x) = just x
+  success-maybe (failure _) = nothing
+
+  failure-maybe : ∀ {Err R : Set} → ComputationResult Err R → Maybe Err
+  failure-maybe (success _) = nothing
+  failure-maybe (failure x) = just x
```
Comment (WhatisRT) [inline src/Interface/ComputationalRelation.agda:60]: Those just relate to `ComputationResult`, so they should not be in this `module` block

File: src/Interface/ComputationalRelation.agda [hunk 2]
```diff
@@ -5,68 +5,130 @@ module Interface.ComputationalRelation where
...
 
-  ExtendedRel-rightUnique : ExtendedRelSTS c s sig s' → ExtendedRelSTS c s sig s'' → s' ≡ s''
-  ExtendedRel-rightUnique {s' = just x}  {just x'} h h' =
-    trans (sym $ Equivalence.from ≡-just⇔STS h) (Equivalence.from ≡-just⇔STS h')
-  ExtendedRel-rightUnique {s' = just x}  {nothing} h h' = ⊥-elim $ h' x h
-  ExtendedRel-rightUnique {s' = nothing} {just x'} h h' = ⊥-elim $ h x' h'
-  ExtendedRel-rightUnique {s' = nothing} {nothing} h h' = refl
+  open ≡-Reasoning
+
+  success≡ : ∀ {A} → ComputationResult Err A → ComputationResult Err A → Set
```
Comment (WhatisRT) [inline src/Interface/ComputationalRelation.agda:118]: I think this should be at the top with all the other stuff about `ComputationResult` as well. Also, it's probably better to define as equality after applying `success-maybe`. Finally, I'd name this `_≈_` or some variant thereof.

File: src/Interface/ComputationalRelation.agda [hunk 3]
```diff
@@ -5,68 +5,130 @@ module Interface.ComputationalRelation where
...
+  success≡ (failure _) (failure _) = ⊤
+
+  ExtendedRel-rightUnique : ExtendedRelSTS c s sig s' → ExtendedRelSTS c s sig s'' → success≡ s' s''
+  ExtendedRel-rightUnique {s' = success x}  {success x'} h h'
+    with trans (sym $ Equivalence.from ≡-success⇔STS h) (Equivalence.from ≡-success⇔STS h')
+  ... | refl = refl
+    
+  ExtendedRel-rightUnique {s' = success x} {failure _}  h h' = ⊥-elim $ h' x h
+  ExtendedRel-rightUnique {s' = failure _} {success x'} h h' = ⊥-elim $ h x' h'
+  ExtendedRel-rightUnique {c = c} {s} {sig} {s' = failure a} {failure b}  h h' = tt
```
Comment (WhatisRT) [inline src/Interface/ComputationalRelation.agda:131]:
```suggestion
  ExtendedRel-rightUnique {s' = failure a} {failure b}  h h' = tt
```

File: src/Interface/ComputationalRelation.agda [hunk 4]
```diff
@@ -75,71 +137,72 @@ module _ {STS : C → S → Sig → S → Set} (comp : Computational STS) where
...
-module _ {STS : C → S → Sig → S → Set} (comp comp' : Computational STS) where
+module _ {STS : C → S → Sig → S → Set} (comp comp' : Computational STS Err) where
 
   open Computational comp  renaming (compute to compute₁)
   open Computational comp' renaming (compute to compute₂)
 
-  compute-ext≡ : compute₁ c s sig ≡ compute₂ c s sig
-  compute-ext≡ = ExtendedRel-rightUnique comp
-    (ExtendedRel-compute comp) (ExtendedRel-compute comp')
+  --compute-ext≡ : compute₁ c s sig ≡ compute₂ c s sig
```
Comment (WhatisRT) [inline src/Interface/ComputationalRelation.agda:150]: If you replace `≡` by the equality for `ComputationalResult`, this should still hold

File: src/Interface/ComputationalRelation.agda [hunk 5]
```diff
@@ -75,71 +137,72 @@ module _ {STS : C → S → Sig → S → Set} (comp : Computational STS) where
...
-    Computational-ReflexiveTransitiveClosureᵇ .computeProof c s (sig ∷ sigs) = do
-      s₁ , h  ← computeProof c s sig
-      s₂ , hs ← computeProof c s₁ sigs
-      just (s₂ , BS-ind h hs)
+module _ {BSTS : C → S → ⊤ → S → Set} ⦃ _ : Computational BSTS Err₁ ⦄ where
+  module _ {STS : C → S → Sig → S → Set} ⦃ _ : Computational STS Err₂ ⦄ where instance
+    Computational-ReflexiveTransitiveClosureᵇ : Computational (ReflexiveTransitiveClosureᵇ BSTS STS) (Err₁ ⊎ Err₂)
+    Computational-ReflexiveTransitiveClosureᵇ .computeProof c s [] = bimap inj₁ (map₂′ BS-base) (computeProof c s tt)
+    -- map₁ (map₂′ BS-base) (computeProof c s tt)
+    Computational-ReflexiveTransitiveClosureᵇ .computeProof c s (sig ∷ sigs) with computeProof c s sig
```
Comment (WhatisRT) [inline src/Interface/ComputationalRelation.agda:171]:
```suggestion
    Computational-ReflexiveTransitiveClosureᵇ .computeProof c s (sig ∷ sigs) with computeProof c s sig 
```

File: src/Ledger/Utxo.lagda [hunk 6]
```diff
@@ -335,22 +336,66 @@ pattern UTXO-inductive⋯ tx Γ s x y z w k l m n o p q r
...
 unquoteDecl UTXO-premises = genPremises UTXO-premises (quote UTXO-inductive)
 
+dm : ∀{P Q : Set} → ⦃ P ⁇ ⦄ → ⦃ Q ⁇ ⦄ → ¬ (P × Q) → ¬ P ⊎ ¬ Q
+dm ⦃ ⁇ no ¬p ⦄ ⦃ _ ⦄ ¬pq = inj₁ ¬p
+dm ⦃ _ ⦄ ⦃ ⁇ no ¬q ⦄ ¬pq = inj₂ ¬q
+dm ⦃ ⁇ yes p ⦄ ⦃ ⁇ yes q ⦄ ¬pq = contradiction (p , q) ¬pq
+
 instance
-  Computational-UTXO : Computational _⊢_⇀⦇_,UTXO⦈_
+  Computational-UTXO : Computational _⊢_⇀⦇_,UTXO⦈_ String
```
Comment (WhatisRT) [inline src/Ledger/Utxo.lagda:345]: I think now would be a good time to move this into the `Ledger.Utxo.Properties` module

**Review by WhatisRT — CHANGES_REQUESTED** [review]
Overall pretty good, just a bunch of cleanup left. Are you planning on replacing some `String` types later?

One thing we could do to generate error messages automatically would be a macro that looks at a term that's a negation of a nested sum type, uses de-morgan to turn it into a sum of negations, then pattern-matches to find the actual failure case and just prints the type of that failure case.

**Comment by WhatisRT** [comment]
The instance also needs a `ToExpr` constraint: https://github.com/input-output-hk/formal-ledger-specifications/actions/runs/7196262284/job/19600726021?pr=328#step:5:5353

File: src/Interface/ComputationalRelation.agda (hunk 2 above)
Comment (Soupstraw) [reply src/Interface/ComputationalRelation.agda:118]: If I move it to the top, it starts complaining that it can't figure out what `Err` is supposed to be. I think it makes sense to keep it in the module so that `Err` is bound at the module level.

Comment (Soupstraw) [reply src/Interface/ComputationalRelation.agda]: I just added the implicit `Err` argument to the equivalence in `ExtendedRel-rightUnique`

**Review by WhatisRT — APPROVED** [review]
LGTM
